US07429609B2
5-Bromo-2,3-difluoro-4-trimethylsilanyl Benzaldehyde
Under nitrogen atmosphere, to a solution containing 6.34 mL of N,N-diisopropylamine in 100 mL of tetrahydrofuran, 26.4 mL of 1.57 Mn-butyllithium in hexane was added at 0° C., and stirred at this temperature for 10 minutes. After cooling to −78° C., a solution containing 10.0 g of (6-bromo-2,3-difluorophenyl)trimethylsilane in 100 mL of tetrahydrofuran was added dropwise, stirred at this temperature for 1 hour, then added dropwise with 2.92 mL of N,N-dimethylformamide, allowed to gradually warm to room temperature, and stirred fro 3 hours. After diluting with water and ethyl acetate, the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated. The crude product was purified and separated by silica gel column chromatography (n-hexane), to afford 9.70 g of the title compound as a colorless oil.

reactant | N,N-diisopropylamine | 6.34 mL | C(C)(C)NC(C)C | C6H15N
reactant | (6-bromo-2,3-difluorophenyl)trimethylsilane | 10.0 g | BrC1=CC=C(C(=C1[Si](C)(C)C)F)F | C9H11BrF2Si
reactant | N,N-dimethylformamide | 2.92 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Bromo-2,3-difluoro-4-trimethylsilanyl Benzaldehyde | 9.70 g | BrC=1C(=C(C(=C(C=O)C1)F)F)[Si](C)(C)C | C10H11BrF2OSi
